US09166177B2
Synthesis of 9-(8-bromodibenzo[b,d]thiophen-2-yl)-9H-carbazole
A mixture of 29.1 g (85.2 mmole) 2,8-dibromodibenzo[b,d]thiophene, 14.2 g (85.2 mmole) of carbazole, 0.12 g (0.54 mmole) of palladium(II) acetate, 0.4 g (1.14 mmol) of 2-(dicyclohexylphosphino)biphenyl, 10 g (104 mmole) sodium tert-butoxide and 300 ml toluene were refluxed under nitrogen for about overnight, then cooled to room temperature, the organic layer was extracted with ethyl acetate and water, dried with anhydrous magnesium sulfate, the solvent was removed and the residue was purified by column chromatography on silica(hexane-dichloromethane) to give product 18.6 g (51%).

reactant | 2,8-dibromodibenzo[b,d]thiophene | 85.2 mmole, 29.1 g | BrC1=CC2=C(SC3=C2C=C(C=C3)Br)C=C1 | C12H6Br2S
reactant | carbazole | 85.2 mmole, 14.2 g | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | sodium tert-butoxide | 104 mmole, 10 g | CC(C)([O-])C.[Na+]
catalyst | palladium(II) acetate | 0.54 mmole, 0.12 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 2-(dicyclohexylphosphino)biphenyl | 1.14 mmol, 0.4 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C24H31P
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 9-(8-bromodibenzo[b,d]thiophen-2-yl)-9H-carbazole | 18.6 g, 51% | BrC=1C=CC2=C(C3=C(S2)C=CC(=C3)N3C2=CC=CC=C2C=2C=CC=CC32)C1 | C24H14BrNS
